US05246915
A mixture of 30 g of 1-(2,2-dimethyl-indan-1-yl)-5-imidazolecarboxylic acid methyl ester, 150 ml of water and 17 g of sulfuric acid is heated to +80° C. Within a period of 1.5 hours an aqueous solution of 114 g of ammoniaperoxodisulfate is added dropwise. The reaction mixture is cooled to +7° C. and the pH-value is adjusted to pH 3 by addition of a 30% sodium hydroxide solution. The mixture is twice extracted with 200 ml of methylene chloride. The combined organic extracts are dried with sodium sulfate and concentrated to dryness. The residue is taken up with a small amount of methylene chloride and diluted with diethyl ether. The resulting suspension is filtered and the filtrate is concentrated and crystallized from a diethyl ether/hexane mixture affording 19 g of 1-(2,2-dimethyl-3-oxo-indan-1-yl)-5-imidazolecarboxylic acid methyl ester, mp. 104°-108° C.

reactant | 1-(2,2-dimethyl-indan-1-yl)-5-imidazolecarboxylic acid methyl ester | 30 g | COC(=O)C1=CN=CN1C1C(CC2=CC=CC=C12)(C)C | C16H18N2O2
reactant | sulfuric acid | 17 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 1-(2,2-dimethyl-3-oxo-indan-1-yl)-5-imidazolecarboxylic acid methyl ester | 19 g | COC(=O)C1=CN=CN1C1C(C(C2=CC=CC=C12)=O)(C)C | C16H16N2O3
